US04076825
(6) Preparation of [5-(Propylsulfinyl)-1H-benzimidazol-2-yl]carbamic acid, methyl ester
To 3.56 g (18 mMol) 4-(1-propylsulfinyl)-1,2-diaminobenzene in 45 ml methanol is added 1.03 ml acetic acid and 3.84 g (19.8 mMol) 1,3-bis(methoxycarbonyl)-S-methyl isothiourea. The resulting solution is heated to reflux for 21/2 hours, cooled and the solvent stripped. The white solid is digested with water, filtered, washed with ether and dried to yield 4.1 g of the title compound in the form of a white solid, m.p. 215°-216°, yield 81%.

reactant | 4-(1-propylsulfinyl)-1,2-diaminobenzene | 18 mMol, 3.56 g | C(CC)S(=O)C1=CC(=C(C=C1)N)N | C9H14N2OS
reactant | acetic acid | 1.03 ml | C(C)(=O)O | C2H4O2
reactant | 1,3-bis(methoxycarbonyl)-S-methyl isothiourea | 19.8 mMol, 3.84 g | COC(=O)NC(SC)=NC(=O)OC | C6H10N2O4S
reactant | water | O | H2O
solvent | methanol | 45 ml | CO | CH4O
product | [5-(Propylsulfinyl)-1H-benzimidazol-2-yl]carbamic acid, methyl ester | 4.1 g, yield 81% | C(CC)S(=O)C1=CC2=C(NC(=N2)NC(OC)=O)C=C1 | C12H15N3O3S
